US07414060B2
3-(5-Fluoro-pyridin-3-ylamino)-6-methyl-pyridine-2-carboxylic acid (2-methyl-thiazol-4-yl)-amide
The title compound, was prepared from 3-Amino-6-methyl-pyridine-2-carboxylic acid (2-methyl-thiazol-4-yl)-amide and 3-Bromo-5-fluoropyridine in accordance with the general method of example 20 to yield the final compound as an off-white solid, MS (ISP): m/e=344.3 (M+H+).

reactant | 3-Amino-6-methyl-pyridine-2-carboxylic acid (2-methyl-thiazol-4-yl)-amide | CC=1SC=C(N1)NC(=O)C1=NC(=CC=C1N)C | C11H12N4OS
reactant | 3-Bromo-5-fluoropyridine | BrC=1C=NC=C(C1)F | C5H3BrFN
product | 3-(5-Fluoro-pyridin-3-ylamino)-6-methyl-pyridine-2-carboxylic acid (2-methyl-thiazol-4-yl)-amide | CC=1SC=C(N1)NC(=O)C1=NC(=CC=C1NC=1C=NC=C(C1)F)C | C16H14FN5OS
